US08471005B2
7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (0.0611 g, 0.252 mmol), N-Phenylbis(trifluoromethanesulphonimide) (0.106 g, 0.297 mmol), N,N-Diisopropylethylamine (0.135 mL, 0.775 mmol) and N,N-Dimethylformamide (2.5 mL, 32 mmol) were combined and stirred at room temperature for 1 hour. (4-Amino-phenyl)-morpholin-4-yl-methanone (0.068 g, 0.33 mmol) was added and the reaction was stirred at room temperature for 30 hours. The reaction was concentrated, purified on preparatory HPLC and lyophilized to yield a brown solid, {4-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-morpholin-4-yl-methanone; compound with trifluoro-acetic acid (4.2 mg, 3%). LCMS: m/z=431.20 (M+H+); 1H NMR (400 MHz, DMSO-d6) δ 9.71 (s, 1H), 8.96 (d, 1H, J=1.9 Hz), 8.85 (m, 1H), 8.42 (m, 1H), 7.72 (d, 2H, J=8.5 Hz), 7.32 (d, 2H, J=8.4 Hz), 7.14 (d, 1H, J=4.7 Hz), 6.98 (d, 1H, J=8.7 Hz), 6.93 (d, 1H, J=4.7 Hz), 3.88 (s, 3H), 3.54 (m, 4H), 3.45 (m, 4H).

reactant | 7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.252 mmol, 0.0611 g | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)O | C12H10N4O2
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.297 mmol, 0.106 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-Diisopropylethylamine | 0.775 mmol, 0.135 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 32 mmol, 2.5 mL | CN(C=O)C | C3H7NO
reactant | (4-Amino-phenyl)-morpholin-4-yl-methanone | 0.33 mmol, 0.068 g | NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C11H14N2O2
product | {4-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-morpholin-4-yl-methanone; compound with trifluoro-acetic acid | 4.2 mg, 3% | FC(C(=O)O)(F)F.COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C(=O)N2CCOCC2 | InChI=1S/C23H22N6O3.C2HF3O2/c1-31-21-9-4-17(14-24-21)20-8-7-19-15-25-23(27-29(19)20)26-18-5-2-16(3-6-18)22(30)28-10-12-32-13-11-28;3-2(4,5)1(6)7/h2-9,14-15H,10-13H2,1H3,(H,26,27);(H,6,7)
